US05474995
Step 2: 2-Bromo-1-(4-fluorophenyl)-2-(4-(methylsulfonyl)phenyl)ethanone
To 1-(4-Fluorophenyl)-2-(4-(methylsulfonyl)phenyl)ethanone (1.00 g) in CH2Cl2 containing CHCl3 (1.0 mL) and CCl4 (1.0 mL) was added bromine (0.614 g). After shining light for 1 h, the reaction was quenched with Na2S2O4, extracted with CHl2Cl2, dried over Na2SO4 and evaporated to yield the title compound which was used as such for the next step (1.10 g).

reactant | 1-(4-Fluorophenyl)-2-(4-(methylsulfonyl)phenyl)ethanone | 1.00 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H13FO3S
reactant | CHCl3 | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
reactant | CCl4 | 1.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | bromine | 0.614 g | BrBr | Br2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(4-fluorophenyl)-2-(4-(methylsulfonyl)phenyl)ethanone | BrC(C(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C15H12BrFO3S
